US08420629B2
Step 2. 1-(fluoromethyl)-3-methylenecyclobutanecarbonitrile
To a mixture of 1-(hydroxymethyl)-3-methylenecyclobutanecarbonitrile (0.252 g, 0.00205 mol) in methylene chloride (20 mL, 0.3 mol) in a plastic bottle was added 2-methoxy-N-(2-methoxyethyl)-N-(trifluoro-λ(4)-sulfanyl)ethanamine (1.13 mL, 0.00614 mol) followed by ethanol (20 μL, 0.0004 mol). The reaction was stirred at rt overnight, then quenched with aq. sodium bicarbonate, and extracted with dichloromethane. The extracts were combined and washed with water, brine, and dried over magnesium sulfate, and evaporated to dryness. The residue was used directly in next step.

reactant | 1-(hydroxymethyl)-3-methylenecyclobutanecarbonitrile | 0.00205 mol, 0.252 g | OCC1(CC(C1)=C)C#N | C7H9NO
reactant | methylene chloride | 0.3 mol, 20 mL | C(Cl)Cl | CH2Cl2
reactant | 2-methoxy-N-(2-methoxyethyl)-N-(trifluoro-λ(4)-sulfanyl)ethanamine | 0.00614 mol, 1.13 mL | COCCN(S(F)(F)F)CCOC | C6H14F3NO2S
reactant | ethanol | 0.0004 mol, 20 μL | C(C)O | C2H6O
product | 1-(fluoromethyl)-3-methylenecyclobutanecarbonitrile | FCC1(CC(C1)=C)C#N | C7H8FN
